US08378107B2
Step 5: (3-{2-[(Acetyl-benzyl-amino)-methyl]-quinolin-3-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 5, Step 5, using the following starting materials: {3-[2-(benzylamino-methyl)-quinolin-3-yl]-4-methoxy-phenyl}-acetic acid ethyl ester, dihydrochloride and acetic anhydride.

reactant | {3-[2-(benzylamino-methyl)-quinolin-3-yl]-4-methoxy-phenyl}-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC1=CC(=C(C=C1)OC)C=1C(=NC2=CC=CC=C2C1)CNCC1=CC=CC=C1)=O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | (3-{2-[(Acetyl-benzyl-amino)-methyl]-quinolin-3-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C=1C(=NC2=CC=CC=C2C1)CN(CC1=CC=CC=C1)C(C)=O)=O | C30H30N2O4
